US05962458
Diethyl azodicarboxylate (236 μl, 1.5 mmol) was added dropwise to a suspension of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (160 mg, 0.5 mmol), (prepared as described for the starting material in Example 24), triphenylphosphine (393 mg, 115 mmol) and 2-(6-methyl-2-pyridyl)ethanol (96 mg, 0.7 mmol), (J. Chem. Soc. A, 1971, 388), in methylene chloride (6 ml) and the mixture stirred for 16 hours at ambient temperature. The mixture was poured directly on to a silica column and eluted with methylene chloride/methanol (95/5). The purified solid was dissolved in methylene chloride/methanol and ethereal hydrogen chloride (1.5 ml of a 4.5M solution) was added. The mixture was diluted with ether and the resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(6-methyl-2-pyridyl)ethoxy)quinazoline hydrochloride (97 mg, 34%).

reactant | Diethyl azodicarboxylate | 1.5 mmol, 236 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.5 mmol, 160 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 115 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(6-methyl-2-pyridyl)ethanol | 0.7 mmol, 96 mg | CC1=CC=CC(=N1)CCO | C8H11NO
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(6-methyl-2-pyridyl)ethoxy)quinazoline hydrochloride | 97 mg, 34% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCC2=NC(=CC=C2)C)C=C1)F | InChI=1S/C23H20ClFN4O2.ClH/c1-14-4-3-5-16(28-14)8-9-31-22-12-20-17(11-21(22)30-2)23(27-13-26-20)29-19-7-6-15(24)10-18(19)25;/h3-7,10-13H,8-9H2,1-2H3,(H,26,27,29);1H
